US06207686B1
A mixture of methyl 3-(2-hydroxyphenyl)acrylate (2.47 g) and 10% palladium on carbon (0.50 g) in methanol (30 ml) was stirred under hydrogen atmosphere for 3 hours. The mixture was filtered and the filtrate was evaporated under reduced pressure to afford methyl 3-(2-hydroxyphenyl)propionate (2.50 g).

reactant | methyl 3-(2-hydroxyphenyl)acrylate | 2.47 g | OC1=C(C=CC=C1)C=CC(=O)OC | C10H10O3
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | methyl 3-(2-hydroxyphenyl)propionate | 2.50 g | OC1=C(C=CC=C1)CCC(=O)OC | C10H12O3
